US08895582B2
To a solution of (S)-methyl 4-(tert-butoxycarbonyl(methyl)amino)-5-(tert-butyldimethylsilyloxy)pentanoate (37.9 g, 109.2 mmol) in DCM (200 mL) was added 2,6-lutidine (25.3 mL, 218.4 mmol) followed by TMSOTf (29.6 mL, 163.8 mmol). The resulting solution was stirred at RT for 1 h. The solvent was removed and the remaining residue was diluted with EtOAc. The organic mixture was washed with water and brine, dried over Na2SO4, filtered, and concentrated to give (S)-5-(tert-butyldimethylsilyloxy)-4-(methylamino)pentan-1-ol, which was used without further purification. LRMS (M+H+) m/z 248.2.

reactant | (S)-methyl 4-(tert-butoxycarbonyl(methyl)amino)-5-(tert-butyldimethylsilyloxy)pentanoate | 109.2 mmol, 37.9 g | C(C)(C)(C)OC(=O)N([C@@H](CCC(=O)OC)CO[Si](C)(C)C(C)(C)C)C | C18H37NO5Si
reactant | 2,6-lutidine | 218.4 mmol, 25.3 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | TMSOTf | 163.8 mmol, 29.6 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-(tert-butyldimethylsilyloxy)-4-(methylamino)pentan-1-ol | [Si](C)(C)(C(C)(C)C)OC[C@H](CCCO)NC | C12H29NO2Si
